US08293911B2
Step B: (4-Bromo-2-methoxy-6-methyl-phenyl)-3,3-dimethyl butanamide
To a solution of 4-bromo-2-methoxy-6-methyl-aniline (2.2 g, 10 mmol) and triethylamine (1.5 g, 15 mmol) in anhydrous dichloromethane (50 mL) was added dropwise tert-butylacetyl chloride (1.6 g, 12 mmol) with stirring at room temperature. The reaction mixture was stirred for 3 hours at room temperature, than the reaction mixture was diluted with dichloromethane and washed with water and dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by silica gel column (ISCO, hexane/EtOAc, 0-40%, 40 min) to give a white solid (2.8 g, 89%).

reactant | 4-bromo-2-methoxy-6-methyl-aniline | 10 mmol, 2.2 g | BrC1=CC(=C(N)C(=C1)C)OC | C8H10BrNO
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | tert-butylacetyl chloride | 12 mmol, 1.6 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (4-Bromo-2-methoxy-6-methyl-phenyl)-3,3-dimethyl butanamide | 2.8 g, 89% | BrC1=CC(=C(C(=C1)C)C(C(=O)N)C(C)(C)C)OC | C14H20BrNO2
